US07514566B2
7-Fluoroindolin-2-one (800 mg, 5293 μmol) was taken up in 30 mL of boiling water. Br2 (273 μL, 5293 μmol) and KBr (1260 mg, 10586 μmol) were added dropwise in 5 mL of water over 10 minutes. A white precipitate began to form as the solution was added. The mixture was stirred for 20 minutes. The mixture was then chilled in an ice bath for 30 minutes, washed with 30 mL of a saturated NaHCO3 solution and extracted twice with 50 mL of EtOAc. The organic layers were concentrated and purified with silica gel column chromatography, eluting with 0-35% EtOAc/hexane to give 5-bromo-7-fluoroindolin-2-one (913 mg, 75% yield). MS m/z: 230 (M+1). 1H NMR (400 MHz, CDCl3) δ ppm 3.58 (s, 2H), 7.20 (dd, J=10.07, 0.88 Hz, 2H), 7.63 (s, 1H).

reactant | 7-Fluoroindolin-2-one | 5293 μmol, 800 mg | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
reactant | Br2 | 5293 μmol, 273 μL | BrBr | Br2
reactant | KBr | 10586 μmol, 1260 mg | [K+].[Br-]
solvent | water | 30 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 5-bromo-7-fluoroindolin-2-one | 913 mg, 75% yield | BrC=1C=C2CC(NC2=C(C1)F)=O | C8H5BrFNO
